US04656167
2 g of palladium on charcoal (10%) are suspended in 100 ml of methanol. To this are added 4.82 g (0.022M) of trans-3,4,4a,5,10,10a-hexahydro-6-methoxy-2H-naphth[2,3-b]-1,4-oxazine and 23.65 ml of formalin (37%), both dissolved in a total of 200 ml of methanol. The mixture is subsequently hydrogenated at 20°, at 1.2 bar hydrogen pressure. After 6 hours, the reaction mixture is filtered through a Hyflo suction filter, washed with 100 ml of methylene chloride, and the filtrate is concentrated by evaporation. The residue is taken up again in 100 ml of methylene chloride, and washed once each time with 20 ml of saturated potassium carbonate solution and water. The methylene chloride phase is dried and concentrated by evaporation. Trans-3,4,4a,5,10,10a-hexahydro-6-methoxy-4-methyl-2H-naphth[2,3-b]-1,4-oxazine is obtained (m.p. 268°-270°, recrystallisation from methylene chloride, methanol, acetone).

reactant | trans-3,4,4a,5,10,10a-hexahydro-6-methoxy-2H-naphth[2,3-b]-1,4-oxazine | 0.022M, 4.82 g | COC1=C2C[C@@H]3[C@H](OCCN3)CC2=CC=C1 | C13H17NO2
reactant | formalin | 23.65 ml | C=O | CH2O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 2 g | [Pd] | Pd
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 200 ml | CO | CH4O
product | Trans-3,4,4a,5,10,10a-hexahydro-6-methoxy-4-methyl-2H-naphth[2,3-b]-1,4-oxazine | COC1=C2C[C@@H]3[C@H](OCCN3C)CC2=CC=C1 | C14H19NO2
